US07439232B2
To a solution of the thus obtained 3-benzyloxy-4-(4-ethylbenzyl)-1-isopropyl-5-methyl-1H-pyrazole (160 mg, 0.46 mmol) in methanol (3 mL), 20% palladium hydroxide/carbon (58 mg) was added at room temperature and stirred overnight under a hydrogen atmosphere at room temperature. After filtration to remove the insoluble materials, the solvent was distilled off under reduced pressure to give 4-(4-ethylbenzyl)-3-hydroxy-1-isopropyl-5-methyl-1H-pyrazole (109 mg, 92%) as a colorless powder.

reactant | 3-benzyloxy-4-(4-ethylbenzyl)-1-isopropyl-5-methyl-1H-pyrazole | 0.46 mmol, 160 mg | C(C1=CC=CC=C1)OC1=NN(C(=C1CC1=CC=C(C=C1)CC)C)C(C)C | C23H28N2O
solvent | methanol | 3 mL | CO | CH4O
catalyst | palladium hydroxide/carbon | 58 mg | [OH-].[OH-].[Pd+2]
product | 4-(4-ethylbenzyl)-3-hydroxy-1-isopropyl-5-methyl-1H-pyrazole | 109 mg, 92% | C(C)C1=CC=C(CC=2C(=NN(C2C)C(C)C)O)C=C1 | C16H22N2O
